US07943622B2
Step 2. Synthesis of (3-bromophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (5 mL, 20 mmol) was added to a solution of tert-butyl 4-(3-bromobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (126 mg, 0.264 mmol) in MeOH (1 mL). After stirring for 4 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 95% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 80.5 mg (68%) of the desired product as a white solid upon conversion to the dihydrochloride salt. LC-MS: RT=3.91 min, [M+H]+=376.5.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(3-bromobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.264 mmol, 126 mg | BrC=1C=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC1 | C22H26BrN3O4
solvent | MeOH | 1 mL | CO | CH4O
product | (3-bromophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | Cl.Cl.BrC=1C=C(C=CC1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C17H18BrN3O2.2ClH/c18-14-4-1-3-13(9-14)17(22)21-8-7-20-10-15(21)12-23-16-5-2-6-19-11-16;;/h1-6,9,11,15,20H,7-8,10,12H2;2*1H
